US05124342
2-(4-Fluorophenyl)-4-hydroxy-5-phenylthiazole
The title compound was prepared according to the method of Scheme II in a manner analogous to Example 31 except 4-fluorothiobenzamide was used instead of thiobenzamide and 2-chloro-2-phenylacetyl chloride was used instead of 2-bromopropionate.

reactant | 4-fluorothiobenzamide | FC1=CC=C(C(=S)N)C=C1 | C7H6FNS
reactant | 2-chloro-2-phenylacetyl chloride | ClC(C(=O)Cl)C1=CC=CC=C1 | C8H6Cl2O
product | 2-(4-Fluorophenyl)-4-hydroxy-5-phenylthiazole | FC1=CC=C(C=C1)C=1SC(=C(N1)O)C1=CC=CC=C1 | C15H10FNOS
